US09260425B2
Following the Suzuki coupling procedure of Example 159, 5-bromo-3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine and 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole were reacted and the product was consequently reacted by the Suzuki coupling procedure of Example 10 with 3-pyridineboronic acid pinacol ester. The product was purified via silica gel chromatography using a gradient of methanol in DCM to afford 236 mg (54%) of 3-(1-Benzyl-1H-pyrazol-4-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine over two steps. ESI MS m/z 437.1 (M+1).

reactant | 5-bromo-3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | BrC=1C=C2C(=CN1)N(N=C2I)C2OCCCC2 | C11H11BrIN3O
reactant | 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C1=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H21BN2O2
reactant | 3-pyridineboronic acid pinacol ester | N1=CC(=CC=C1)B1OC(C)(C)C(C)(C)O1 | C11H16BNO2
product | 3-(1-Benzyl-1H-pyrazol-4-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 236 mg, 54% | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2 | C26H24N6O
